US04126687
A stirred solution of 1 part of 5-chloro-1-{1-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one in 20 parts of ethanol is saturated with gaseous hydrogen chloride. The formed hydrochloride salt is allowed to crystallize while stirring. It is filtered off and dried, yielding 0.6 parts (53%) of 5-chloro-1-{1-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one hydrochloride hydrate; mp. 195.7° C.

reactant | 5-chloro-1-{1-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | C22H24ClN5O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-1-{1-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one hydrochloride hydrate | 53% | O.Cl.ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | InChI=1S/C22H24ClN5O2.ClH.H2O/c23-15-6-7-20-18(14-15)25-22(30)28(20)16-8-12-26(13-9-16)10-3-11-27-19-5-2-1-4-17(19)24-21(27)29;;/h1-2,4-7,14,16H,3,8-13H2,(H,24,29)(H,25,30);1H;1H2
